US06884801B1
N-[(Dimethylamino)methylene]-2-nitrobenzamide, prepared in Example 90, and isopropylhydrazine hydrochloric acid salt were reacted as in Example 90 to give 1-(2-propyl)-5-(2-nitrophenyl)-1,2,4-triazole, which was reduced and coupled with CMI similarly to give the fumaric acid salt of N-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-(2-propyl-1H-1,2,4-triazol-5-yl)aniline.

reactant | N-[(Dimethylamino)methylene]-2-nitrobenzamide | CN(C)C=NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C10H11N3O3
reactant | isopropylhydrazine hydrochloric acid salt | Cl.C(C)(C)NN
product | 1-(2-propyl)-5-(2-nitrophenyl)-1,2,4-triazole | CC(C)N1N=CN=C1C1=C(C=CC=C1)[N+](=O)[O-] | C11H12N4O2
